US04126689
5 Parts of 4-chloro-N-(4-chlorophenyl)-N-[1-(1-methylethyl)-4-piperidinyl]benzeneacetamide are dissolved in a mixture of 60 parts of 1,1'-oxybisethane and 16 parts of 2-propanone. The resulting solution is acidified with an excess of 2-propanol previously saturated with gaseous hydrogen chloride. The precipitated salt is filtered off and dried, yielding 7.5 parts of 4-chloro-N-(4-chlorophenyl)-N-[1-(1-methylethyl)-4-piperidinyl]benzeneacetamide hydrochloride; mp. 266.6° C.

reactant | 4-chloro-N-(4-chlorophenyl)-N-[1-(1-methylethyl)-4-piperidinyl]benzeneacetamide | ClC1=CC=C(C=C1)CC(=O)N(C1CCN(CC1)C(C)C)C1=CC=C(C=C1)Cl | C22H26Cl2N2O
reactant | 2-propanol | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | 1,1'-oxybisethane | O(CC)CC | C4H10O
solvent | 2-propanone | CC(C)=O | C3H6O
product | 4-chloro-N-(4-chlorophenyl)-N-[1-(1-methylethyl)-4-piperidinyl]benzeneacetamide hydrochloride | Cl.ClC1=CC=C(C=C1)CC(=O)N(C1CCN(CC1)C(C)C)C1=CC=C(C=C1)Cl | InChI=1S/C22H26Cl2N2O.ClH/c1-16(2)25-13-11-21(12-14-25)26(20-9-7-19(24)8-10-20)22(27)15-17-3-5-18(23)6-4-17;/h3-10,16,21H,11-15H2,1-2H3;1H
